US03988510
Preparation of (2-Pyridylmethyl)(2,5-Dimethyl-3-Furyl)Sulfide
Into a 25 ml 3 neck round bottom flask equipped with magnetic stirrer, pot thermometer, Y tube, nitrogen inlet tube, reflux condenser and heating mantle, is placed a solution of 0.54 g (0.01 moles) of sodium methoxide dissolved in 3 ml absolute methanol. The reaction mass is maintained at 25°-30° C and a solution of 0.64 g (0.005 moles) of 2,5-dimethyl-3-furan thiol in 3 ml absolute methanol is added to the reaction mass. While maintaining the reaction at 25° C, picolyl chloride hydrochloride (0.82 g; 0.005 moles) dissolved in 2 ml absolute methanol is added to the reaction mass. The reaction being exothermic, the reaction mass warms up to 42° C and a white solid precipitate forms. The reaction mass is allowed to cool to 25° C with stirring over a period of 30 minutes. The reaction mass is then heated to reflux (60° - 65° C) under nitrogen and reflux is continued for a period of 1 hour. The reaction mass is cooled to 30° C and flushed with nitrogen. After remaining at room temperature for a period of 20 hours, 10 ml. of water is added to the reaction mass with stirring, causing the reaction mass to now exist in two phases; an aqueous phase and an organic phase. The pH of the reaction mixture is 5. 7 ml of n-hexane is then added to the reaction mass with stirring and transferred into a separatory funnel. The aqueous layer is separated from the organic phase and extracted with 8 ml n-hexane after first diluting the aqueous phase with another 10 ml of water. The hexane extracts are combined, washed with 7 ml of saturated sodium chloride solution, dried over anhydrous sodium sulfate, gravity filtered, and concentrated on a rotary evaporator using water-aspirator vacuum.

reactant | sodium methoxide | 0.01 moles, 0.54 g | C[O-].[Na+]
reactant | 2,5-dimethyl-3-furan thiol | 0.005 moles, 0.64 g | CC=1OC(=CC1S)C | C6H8OS
reactant | picolyl chloride hydrochloride | 0.005 moles, 0.82 g | Cl.N1=C(C=CC=C1)CCl
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | (2-Pyridylmethyl)(2,5-Dimethyl-3-Furyl)Sulfide | N1=C(C=CC=C1)CSC1=C(OC(=C1)C)C | C12H13NOS
